US09284308B2
N-Methoxy-N-methyl-4-nitrobenzamide
Triethylamine (4.89 mL, 35.184 mmol) was added slowly to a mixture of commercially available 4-nitrobenzoic acid (3.0 g, 17.592 mmol), N,O-dimethylhydroxylamine hydrochloride (1.92 g, 19.351 mmol), and EDCI (4.05 g, 21.11 mmol) in CH2Cl2 (30 mL). The mixture was stirred at room temperature overnight then quenched with saturated aqueous NaHCO3. Water (50 mL) was added followed by additional CH2Cl2. The mixture as stirred for 10 minutes and layers were separated. The CH2Cl2 layer was dried over Na2SO4, then filtered. The solvent was removed under reduced pressure and the residual oil chromatographed (CH2Cl2/EtOAc) to provide the title compound as a white solid.

reactant | Triethylamine | 35.184 mmol, 4.89 mL | C(C)N(CC)CC | C6H15N
reactant | 4-nitrobenzoic acid | 17.592 mmol, 3.0 g | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
reactant | N,O-dimethylhydroxylamine hydrochloride | 19.351 mmol, 1.92 g | Cl.CNOC
reactant | EDCI | 21.11 mmol, 4.05 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | N-Methoxy-N-methyl-4-nitrobenzamide | CON(C(C1=CC=C(C=C1)[N+](=O)[O-])=O)C | C9H10N2O4
